US09371336B2
6-Chloro-2-hydroxynicotinaldehyde (1 g, 6.37 mmol) was dissolved in DMSO (12 mL) at room temperature. The solution was treated with tert-butyl 1,4-diazepane-1-carboxylate (2.55 g, 12.74 mmol) at room temperature. The reaction mixture was stirred at 100° C. for 2 hours and cooled to room temperature. An aqueous saturated NaHCO3 solution (50 mL) was added. The aqueous layer was extracted with CH2Cl2 three times. The combined organic layers were dried over K2CO3, filtered and concentrated under vacuum to give 2.1 g of tert-butyl 4-(5-formyl-6-hydroxypyridin-2-yl)-1,4-diazepane-1-carboxylate. The concentrated residue was used in next step without further purification. MS m/z 322 [M+H]+.

reactant | 6-Chloro-2-hydroxynicotinaldehyde | 6.37 mmol, 1 g | ClC1=NC(=C(C=O)C=C1)O | C6H4ClNO2
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 12.74 mmol, 2.55 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-(5-formyl-6-hydroxypyridin-2-yl)-1,4-diazepane-1-carboxylate | 2.1 g | C(=O)C=1C=CC(=NC1O)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H23N3O4
